US07820836B2
To 159.8 g of anhydrous sodium carbonate (1.5 mol) in 950 ml of dimethylformamide were added 99.6 g of anhydrous phloroacetophenone (375 mmol) and the resulting yellow suspension was stirred for 3 hours under argon at 25° C., then cooled to 0° C. To this suspension was added the above solution of sodium formylsulfate within 2 minutes and the reaction mixture was stirred for 18 hours at 0° C., heated to 80° C., and held at that temperature during 30 minutes. To the hot mixture were added within 40 minutes 732 ml of sulfuric acid (36%). After gas evolution had ceased, 2.44 l water-dimethylformamide was distilled off at 80° C. and 15 mbar. To the thick suspension were added within 1.5 hours at 70° C. 3.99 l of hot water (50° C.). The white suspension was stirred and cooled to 20° C. overnight, then filtered. The filter cake was washed 3 times with 272 ml of water, then dried at 60° C. at 12 mbar overnight to yield 101.9 g of genistein as a light beige solid. The calculated yield was 95% (purity 93%, w/w, HPLC).

reactant | sodium carbonate | 1.5 mol, 159.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phloroacetophenone | 375 mmol, 99.6 g | CC(=O)C1=C(C=C(C=C1O)O)O | C8H8O4
reactant | sodium formylsulfate | C(=O)OS(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | 732 ml | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 950 ml | CN(C=O)C | C3H7NO
product | genistein | 101.9 g, yield was 95% | C1=CC(=CC=C1C2=COC=3C=C(C=C(C3C2=O)O)O)O | C15H10O5
